**************************************************************
* Library of Power Inductors from Coilcraft
* Copyright Cadence Design Systems 2011, Inc.  All Rights Reserved.
* This model is subject to change without notice. A number of simplifications
* were made to speed up the model. Cadence Design Systems, Inc 
* is not responsible for any deviation between actual device behavior and 
* results obtained from simulation.
**************************************************************
*$
.SUBCKT DO1608C102MLC 1 2  
R_R1 1 N00815 0.05
L_L1 N00815 2 1u
.ENDS
*$
*
*$
.SUBCKT DO1608C152MLC 1 2  
R_R1 1 N00816 0.06
L_L1 N00816 2 1.5u
.ENDS
*$
*
*$
.SUBCKT DO1608C222MLC 1 2  
R_R1 1 N00817 0.07
L_L1 N00817 2 2.2u
.ENDS
*$
*
*$
.SUBCKT DO1608C272MLC 1 2  
R_R1 1 N00818 0.08
L_L1 N00818 2 2.7u
.ENDS
*$
*
*$
.SUBCKT DO1608C332MLC 1 2  
R_R1 1 N00819 0.08
L_L1 N00819 2 3.3u
.ENDS
*$
*
*$
.SUBCKT DO1608C472MLC 1 2  
R_R1 1 N00821 0.09
L_L1 N00821 2 4.7u
.ENDS
*$
*
*$
.SUBCKT DO1608C682MLC 1 2  
R_R1 1 N00821 0.13
L_L1 N00821 2 6.8u
.ENDS
*$
*
*$
.SUBCKT DO1608C822MLC 1 2  
R_R1 1 N00821 0.16
L_L1 N00821 2 8.2u
.ENDS
*$
*
*$
.SUBCKT DO1608C103MLC 1 2  
R_R1 1 N00821 0.16
L_L1 N00821 2 10u
.ENDS
*$
*
*$
.SUBCKT DO1608C153MLC 1 2  
R_R1 1 N00821 0.23
L_L1 N00821 2 15u
.ENDS
*$
*
*$
.SUBCKT DO1608C223MLC 1 2  
R_R1 1 N00821 0.37
L_L1 N00821 2 22u
.ENDS
*$
*
*$
.SUBCKT DO1608C333MLC 1 2  
R_R1 1 N00821 0.51
L_L1 N00821 2 33u
.ENDS
*$
*
*$
.SUBCKT DO1608C473MLC 1 2  
R_R1 1 N00821 0.64
L_L1 N00821 2 47u
.ENDS
*$
*
*$
.SUBCKT DO1608C683MLC 1 2  
R_R1 1 N00821 0.86
L_L1 N00821 2 68u
.ENDS
*$
*
*$
.SUBCKT DO1608C104MLC 1 2  
R_R1 1 N00821 1.27
L_L1 N00821 2 100u
.ENDS
*$
*
*$
.SUBCKT DO1608C154MLC 1 2  
R_R1 1 N00821 2.00
L_L1 N00821 2 150u
.ENDS
*$
*
*$
.SUBCKT DO1608C224MLC 1 2  
R_R1 1 N00821 3.11
L_L1 N00821 2 220u
.ENDS
*$
*
*$
.SUBCKT DO1608C334MLC 1 2  
R_R1 1 N00821 3.80
L_L1 N00821 2 330u
.ENDS
*$
*
*$
.SUBCKT DO1608C474MLC 1 2  
R_R1 1 N00821 5.06
L_L1 N00821 2 470u
.ENDS
*$
*
*$
.SUBCKT DO1608C684MLC 1 2  
R_R1 1 N00821 9.20
L_L1 N00821 2 680u
.ENDS
*$
*
*$
.SUBCKT DO1608C105MLC 1 2  
R_R1 1 N00821 13.8
L_L1 N00821 2 1000u
.ENDS
*$
* LPO Series
*
*$
.SUBCKT LPO2506O-472LD 1 2  
R_R1 1 N00815 0.145
L_L1 N00815 2 4.7u
.ENDS
*$
*
*$
.SUBCKT LPO2506O-682LD 1 2  
R_R1 1 N00815 0.165
L_L1 N00815 2 6.8u
.ENDS
*$
*
*$
.SUBCKT LPO2506O-822LD 1 2  
R_R1 1 N00815 0.200
L_L1 N00815 2 8.2u
.ENDS
*$
*
*$
.SUBCKT LPO2506O-103LD 1 2  
R_R1 1 N00815 0.240
L_L1 N00815 2 10u
.ENDS
*$
*
*$
.SUBCKT LPO2506O-153LD 1 2  
R_R1 1 N00815 0.300
L_L1 N00815 2 15u
.ENDS
*$
*
*$
.SUBCKT LPO2506O-223LD 1 2  
R_R1 1 N00815 0.420
L_L1 N00815 2 22u
.ENDS
*$
*
*$
.SUBCKT LPO2506O-333LD 1 2  
R_R1 1 N00815 0.550
L_L1 N00815 2 33u
.ENDS
*$
*
*$
.SUBCKT LPO2506O-473LD 1 2  
R_R1 1 N00815 0.765
L_L1 N00815 2 47u
.ENDS
*$
*
*$
.SUBCKT LPO2506O-683LD 1 2  
R_R1 1 N00815 1.10
L_L1 N00815 2 68u
.ENDS
*$
*
*$
.SUBCKT LPO2506O-104LD 1 2  
R_R1 1 N00815 1.60
L_L1 N00815 2 100u
.ENDS
*$
*
*$
.SUBCKT LPO2506O-154LD 1 2  
R_R1 1 N00815 2.50
L_L1 N00815 2 150u
.ENDS
*$
*
*$
.SUBCKT LPO2506O-224LD 1 2  
R_R1 1 N00815 3.65
L_L1 N00815 2 220u
.ENDS
*$
*
*$
.SUBCKT LPO2506O-334LD 1 2  
R_R1 1 N00815 4.65
L_L1 N00815 2 330u
.ENDS
*$
*
*$
.SUBCKT LPO2506O-474LD 1 2  
R_R1 1 N00815 6.75
L_L1 N00815 2 470u
.ENDS
*$
*
*$
.SUBCKT LPO2506O-684LD 1 2  
R_R1 1 N00815 9.15
L_L1 N00815 2 680u
.ENDS
*$
*
*$
.SUBCKT LPO2506O-105LD 1 2  
R_R1 1 N00815 14.20
L_L1 N00815 2 1000u
.ENDS
*$
* PFL Series
*
*$
.SUBCKT PFL1610-331MEW 1 2  
R_R1 1 N00815 0.098
L_L1 N00815 2 0.33u
.ENDS
*$
*
*$
.SUBCKT PFL1610-471MEW 1 2  
R_R1 1 N00815 0.205
L_L1 N00815 2 0.47u
.ENDS
*$
*
*$
.SUBCKT PFL1610-561MEW 1 2  
R_R1 1 N00815 0.160
L_L1 N00815 2 0.56u
.ENDS
*$
*
*$
.SUBCKT PFL1610-681MEW 1 2  
R_R1 1 N00815 0.223
L_L1 N00815 2 0.68u
.ENDS
*$
*
*$
.SUBCKT PFL1610-102MEW 1 2  
R_R1 1 N00815 0.365
L_L1 N00815 2 1u
.ENDS
*$
*
*$
.SUBCKT PFL1610-222MEW 1 2  
R_R1 1 N00815 1.12
L_L1 N00815 2 2.2u
.ENDS
*$
*
*$
.SUBCKT PFL1610-472MEW 1 2  
R_R1 1 N00815 1.72
L_L1 N00815 2 4.7u
.ENDS
*$
