****************************************************************************
*
* WARNING : please consider following remarks before usage
*
* 1) All models are a tradeoff between accuracy and complexity (ie. simulation
*    time).
* 2) Macromodels are not a substitute to breadboarding, they rather confirm the
*    validity of a design approach and help to select surrounding component values.
*
* 3) A macromodel emulates the NOMINAL performance of a TYPICAL device within
*    SPECIFIED OPERATING CONDITIONS (ie. temperature, supply voltage, etc.).
*    Thus the macromodel is often not as exhaustive as the datasheet, its goal
*    is to illustrate the main parameters of the product.
*
* 4) Data issued from macromodels used outside of its specified conditions
*    (Vcc, Temperature, etc) or even worse: outside of the device operating
*    conditions (Vcc, Vicm, etc) are not reliable in any way.
*
* Modification: two models added for quadruple differential line driver sn75als192 
* and quadruple differential line driver Receiver sn75als193
*
****************************************************************************

* ARINC 429 Line Drivers
*$
.SUBCKT DEI1148
+IN1A IN1B 
+IN2A IN2B 
+IN3A IN3B 
+IN4A IN4B 
+IN5A IN5B 
+IN6A IN6B 
+IN7A IN7B 
+IN8A IN8B 
+TESTAA TESTAB
+TESTBA TESTBB
+OUT1A OUT1B  
+OUT2A OUT2B 
+OUT3A OUT3B 
+OUT4A OUT4B 
+OUT5A OUT5B 
+OUT6A OUT6B 
+OUT7A OUT7B 
+OUT8A OUT8B
+VDD
+VSS
RTESTBA TESTBA 0 1K
RTESTBB TESTBB 0 1K
RTESTAA TESTAA 0 1K
RTESTAB TESTAB 0 1K
E1A OUT1A 0 VALUE {IF((V(IN1A)-V(IN1B)>=6.5 | (V(TESTAA) >=2.5 & V(TESTAB) <=0.5) ),5.0,
+IF((V(IN1A)-V(IN1B)<=2.5 | (V(TESTAA) <=0.5 & V(TESTAB) >=2.5) ), 0.0,0.0))}
ROUT1A OUT1A 0 300K
COUT1A OUT1A 0 1P

E1B OUT1B 0 VALUE {IF((V(IN1B)-V(IN1A)>=6.5 | (V(TESTAA) <=0.5 & V(TESTAB) >=2.5)),5.0,
+IF((V(IN1A)-V(IN1B)<=2.5 | (V(TESTAA) >=2.5 & V(TESTAB) <=0.5)), 0.0,0.0))}
ROUT1B OUT1B 0 300K
COUT1B OUT1B 0 1P

E3p OUT3A 0 VALUE {IF((V(IN3A)-V(IN3B)>=6.5 | (V(TESTAA) >=2.5 & V(TESTAB) <=0.5) ),5.0,
+IF((V(IN3A)-V(IN3B)<=2.5 | (V(TESTAA) <=0.5 & V(TESTAB) >=2.5) ), 0.0,0.0))}
ROUT3A OUT3A 0 300K
COUT3A OUT3A 0 1P

E3B OUT3B 0 VALUE {IF((V(IN3B)-V(IN3A)>=6.5 | (V(TESTAA) <=0.5 & V(TESTAB) >=2.5)),5.0,
+IF((V(IN3A)-V(IN3B)<=2.5 | (V(TESTAA) >=2.5 & V(TESTAB) <=0.5)), 0.0,0.0))}
ROUT3B OUT3B 0 300K
COUT3B OUT3B 0 1P

E5A OUT5A 0 VALUE {IF((V(IN5A)-V(IN5B)>=6.5 | (V(TESTAA) >=2.5 & V(TESTAB) <=0.5) ),5.0,
+IF((V(IN5A)-V(IN5B)<=2.5 | (V(TESTAA) <=0.5 & V(TESTAB) >=2.5) ), 0.0,0.0))}
ROUT5A OUT5A 0 300K
COUT5A OUT5A 0 1P

E5B OUT5B 0 VALUE {IF((V(IN5B)-V(IN5A)>=6.5 | (V(TESTAA) <=0.5 & V(TESTAB) >=2.5)),5.0,
+IF((V(IN5A)-V(IN5B)<=2.5 | (V(TESTAA) >=2.5 & V(TESTAB) <=0.5)), 0.0,0.0))}
ROUT5B OUT5B 0 300K
COUT5B OUT5B 0 1P

E7p OUT7A 0 VALUE {IF((V(IN7A)-V(IN7B)>=6.5 | (V(TESTAA) >=2.5 & V(TESTAB) <=0.5) ),5.0,
+IF((V(IN7A)-V(IN7B)<=2.5 | (V(TESTAA) <=0.5 & V(TESTAB) >=2.5) ), 0.0,0.0))}
ROUT7A OUT7A 0 300K
COUT7A OUT7A 0 1P

E7B OUT7B 0 VALUE {IF((V(IN7B)-V(IN7A)>=6.5 | (V(TESTAA) <=0.5 & V(TESTAB) >=2.5)),5.0,
+IF((V(IN7A)-V(IN7B)<=2.5 | (V(TESTAA) >=2.5 & V(TESTAB) <=0.5)), 0.0,0.0))}
ROUT7B OUT7B 0 300K
COUT7B OUT7B 0 1P

E2p OUT2A 0 VALUE {IF((V(IN2A)-V(IN2B)>=6.5 | (V(TESTBA) >=2.5 & V(TESTBB) <=0.5) ),5.0,
+IF((V(IN2A)-V(IN2B)<=2.5 | (V(TESTBA) <=0.5 & V(TESTBB) >=2.5) ), 0.0,0.0))}
ROUT2A OUT2A 0 300K
COUT2A OUT2A 0 1P

E2B OUT2B 0 VALUE {IF((V(IN2B)-V(IN2A)>=6.5 | (V(TESTBA) <=0.5 & V(TESTBB) >=2.5)),5.0,
+IF((V(IN2A)-V(IN2B)<=2.5 | (V(TESTBA) >=2.5 & V(TESTBB) <=0.5)), 0.0,0.0))}
ROUT2B OUT2B 0 300K
COUT2B OUT2B 0 1P

E4p OUT4A 0 VALUE {IF((V(IN4A)-V(IN4B)>=6.5 | (V(TESTBA) >=2.5 & V(TESTBB) <=0.5) ),5.0,
+IF((V(IN4A)-V(IN4B)<=2.5 | (V(TESTBA) <=0.5 & V(TESTBB) >=2.5) ), 0.0,0.0))}
ROUT4A OUT4A 0 300K
COUT4A OUT4A 0 1P

E4B OUT4B 0 VALUE {IF((V(IN4B)-V(IN4A)>=6.5 | (V(TESTBA) <=0.5 & V(TESTBB) >=2.5)),5.0,
+IF((V(IN4A)-V(IN4B)<=2.5 | (V(TESTBA) >=2.5 & V(TESTBB) <=0.5)), 0.0,0.0))}
ROUT4B OUT4B 0 300K
COUT4B OUT4B 0 1P

E6p OUT6A 0 VALUE {IF((V(IN6A)-V(IN6B)>=6.5 | (V(TESTBA) >=2.5 & V(TESTBB) <=0.5) ),5.0,
+IF((V(IN6A)-V(IN6B)<=2.5 | (V(TESTBA) <=0.5 & V(TESTBB) >=2.5) ), 0.0,0.0))}
ROUT6A OUT6A 0 300K
COUT6A OUT6A 0 1P

E6B OUT6B 0 VALUE {IF((V(IN6B)-V(IN6A)>=6.5 | (V(TESTBA) <=0.5 & V(TESTBB) >=2.5)),5.0,
+IF((V(IN6A)-V(IN6B)<=2.5 | (V(TESTBA) >=2.5 & V(TESTBB) <=0.5)), 0.0,0.0))}
ROUT6B OUT6B 0 300K
COUT6B OUT6B 0 1P

E8p OUT8A 0 VALUE {IF((V(IN8A)-V(IN8B)>=6.5 | (V(TESTBA) >=2.5 & V(TESTBB) <=0.5) ),5.0,
+IF((V(IN8A)-V(IN8B)<=2.5 | (V(TESTBA) <=0.5 & V(TESTBB) >=2.5) ), 0.0,0.0))}
ROUT8A OUT8A 0 300K
COUT8A OUT8A 0 1P

E8B OUT8B 0 VALUE {IF((V(IN8B)-V(IN8A)>=6.5 | (V(TESTBA) <=0.5 & V(TESTBB) >=2.5)),5.0,
+IF((V(IN8A)-V(IN8B)<=2.5 | (V(TESTBA) >=2.5 & V(TESTBB) <=0.5)), 0.0,0.0))}
ROUT8B OUT8B 0 300K
COUT8B OUT8B 0 1P

.ENDS DEI1148
*$


*$
.SUBCKT DEI1075 HI_LO TTLIN0 TTLIN1 GND V- 429OUTA 429OUTB  V+   PARAMS:HI_LO=0
*************************************************************
.PARAM R_VALUE= {if (HI_LO==0, 1600K, 225K)}
UMY_SELOGIC LOGICEXP(2,4)  $G_DPWR $G_DGND TTLIN0 TTLIN1 SEL1 SEL2 SEL3 SEL4   
+D0_GATE IO_STD
+ LOGIC:
***INTERMEDIATE SIGNALS
+SEL1= {(~(TTLIN0)) & (~(TTLIN1)) } 
+SEL2= { (~(TTLIN0)) & TTLIN1 }
+SEL3= { TTLIN0 & (~(TTLIN1)) } 
+SEL4= { TTLIN0 & TTLIN1 } 
**************ANALOG INTERFACE
RSEL1 SEL1 0 1K
RSEL2 SEL2 0 1K
RSEL3 SEL3 0 1K
RSEL4 SEL4 0 1K
*********FIX VALUES FOR LOGIC LEVELS ***********
VA A1 0 DC 0V
VB B1 0 DC -5V
VC C1 0 DC 5V
*VD D1 0 DC  2.0V          ; SIGNAL FOR HI-Z AS A INPUT TO THROUGH IT OUT ON THE BASIS OF SELECTION
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ D1 
+ IO_STM
+ IO_LEVEL=0
+  0s X  
************SELECTING LOGIC TO MAKE LOGIC LEVELS WITH THE HELP      OF INPUT DIGITAL VALUE***********************
EOUTXA 429OUTA_1 0 VALUE {IF((V(SEL1) >= 0.5 ),V(A1),IF((V(SEL2) >= 0.5),V(B1),IF((V(SEL3) >= 0.5),V(C1),V(D1))))}
EOUTXB 429OUTB_1 0 VALUE {IF((V(SEL1) >= 0.5 ),V(A1),IF((V(SEL2) >= 0.5),V(C1),IF((V(SEL3) >= 0.5),V(B1),V(D1))))}
*************LOGIC TO CREATE SLEW (PROGRAMMABLE********
ROUTXA 429OUTA_1 429OUTA {R_VALUE}
COUTXA 429OUTA 0 1P
ROUTXB 429OUTB_1 429OUTB {R_VALUE}
COUTXB 429OUTB 0 1P
*******************************************************
.ENDS DEI1075
*$

*$
.SUBCKT DEI1074 HI_LO TTLIN0 TTLIN1 GND V- 429OUTA 429OUTB  V+  PARAMS:HI_LO=0
*************************************************************
.PARAM R_VALUE= {if (HI_LO==0, 1600K, 225K)}
UMY_SELOGIC LOGICEXP(2,4)  $G_DPWR $G_DGND TTLIN0 TTLIN1 SEL1 SEL2 SEL3 SEL4   
+D0_GATE IO_STD
+ LOGIC:
***INTERMEDIATE SIGNALS
+SEL1= {(~(TTLIN0)) & (~(TTLIN1)) } 
+SEL2= { (~(TTLIN0)) & TTLIN1 }
+SEL3= { TTLIN0 & (~(TTLIN1)) } 
+SEL4= { TTLIN0 & TTLIN1 } 
**************ANALOG INTERFACE
RSEL1 SEL1 0 1K
RSEL2 SEL2 0 1K
RSEL3 SEL3 0 1K
RSEL4 SEL4 0 1K
*********FIX VALUES FOR LOGIC LEVELS ***********
VA A1 0 DC 0V
VB B1 0 DC -5V
VC C1 0 DC 5V
*VD D1 0 DC  2.0V          ; SIGNAL FOR HI-Z AS A INPUT TO THROUGH IT OUT ON THE BASIS OF SELECTION
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ D1 
+ IO_STM
+ IO_LEVEL=0
+  0s X  
************SELECTING LOGIC TO MAKE LOGIC LEVELS WITH THE HELP      OF INPUT DIGITAL VALUE***********************
EOUTXA 429OUTA_1 0 VALUE {IF((V(SEL1) >= 0.5 ),V(A1),IF((V(SEL2) >= 0.5),V(B1),IF((V(SEL3) >= 0.5),V(C1),V(D1))))}
EOUTXB 429OUTB_1 0 VALUE {IF((V(SEL1) >= 0.5 ),V(A1),IF((V(SEL2) >= 0.5),V(C1),IF((V(SEL3) >= 0.5),V(B1),V(D1))))}
*************LOGIC TO CREATE SLEW (PROGRAMMABLE********
ROUTXA 429OUTA_1 429OUTA {R_VALUE}
COUTXA 429OUTA 0 1P
ROUTXB 429OUTB_1 429OUTB {R_VALUE}
COUTXB 429OUTB 0 1P
*******************************************************
.ENDS DEI1074
*$

*$
.SUBCKT DEI1073  HI_LO TTLIN0 TTLIN1 GND V- 429OUTA 429OUTB  V+  PARAMS:HI_LO=0
*************************************************************
.PARAM R_VALUE= {if (HI_LO==0, 1600K, 225K)}

*VGND GND 0 DC 0V
*RHI_LO HI_LO 0 1K

UMY_SELOGIC LOGICEXP(2,4)  $G_DPWR $G_DGND TTLIN0 TTLIN1 SEL1 SEL2 SEL3 SEL4   
+D0_GATE IO_STD
+ LOGIC:
***INTERMEDIATE SIGNALS
+SEL1= {(~(TTLIN0)) & (~(TTLIN1)) } 
+SEL2= { (~(TTLIN0)) & TTLIN1 }
+SEL3= { TTLIN0 & (~(TTLIN1)) } 
+SEL4= { TTLIN0 & TTLIN1 } 
**************ANALOG INTERFACE
RSEL1 SEL1 0 1K
RSEL2 SEL2 0 1K
RSEL3 SEL3 0 1K
RSEL4 SEL4 0 1K
*********FIX VALUES FOR LOGIC LEVELS ***********
VA A1 0 DC 0V
VB B1 0 DC -5V
VC C1 0 DC 5V
*VD D1 0 DC  2.0V          ; SIGNAL FOR HI-Z AS A INPUT TO THROUGH IT OUT ON THE BASIS OF SELECTION
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ D1 
+ IO_STM
+ IO_LEVEL=0
+  0s X  
************SELECTING LOGIC TO MAKE LOGIC LEVELS WITH THE HELP      OF INPUT DIGITAL VALUE***********************
EOUTXA 429OUTA_1 0 VALUE {IF((V(SEL1) >= 0.5 ),V(A1),IF((V(SEL2) >= 0.5),V(B1),IF((V(SEL3) >= 0.5),V(C1),V(D1))))}
EOUTXB 429OUTB_1 0 VALUE {IF((V(SEL1) >= 0.5 ),V(A1),IF((V(SEL2) >= 0.5),V(C1),IF((V(SEL3) >= 0.5),V(B1),V(D1))))}
*************LOGIC TO CREATE SLEW (PROGRAMMABLE********
ROUTXA 429OUTA_1 429OUTA {R_VALUE}
COUTXA 429OUTA 0 1P
 
ROUTXB 429OUTB_1 429OUTB {R_VALUE}
COUTXB 429OUTB 0 1P
*******************************************************
.ENDS DEI1073
*$

*$
.SUBCKT DEI1047 IN1A IN1B 
+IN2A IN2B 
+IN3A IN3B 
+IN4A IN4B 
+IN5A IN5B 
+IN6A IN6B 
+IN7A IN7B 
+IN8A IN8B 
+TESTA TESTB 
+OUT1A OUT1B  
+OUT2A OUT2B 
+OUT3A OUT3B 
+OUT4A OUT4B 
+OUT5A OUT5B 
+OUT6A OUT6B 
+OUT7A OUT7B 
+OUT8A OUT8B
+VDD
+VSS1
+VSS
RTESTA TESTA 0 1K
RTESTB TESTA 0 1K

VTESTA TESTA 0 dc 0v    ;TESTA AND TESTB PINS ARE NOT MODELED 
VTESTB TESTB 0 dc 0v

E1A OUT1A 0 VALUE {IF((V(IN1A)-V(IN1B)>=6.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5) ),5.0,
+IF((V(IN1A)-V(IN1B)<=2.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5) ), 0.0,0.0))}
ROUT1A OUT1A 0 300K
COUT1A OUT1A 0 1P

E1B OUT1B 0 VALUE {IF((V(IN1B)-V(IN1A)>=6.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5)),5.0,
+IF((V(IN1A)-V(IN1B)<=2.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5)), 0.0,0.0))}
ROUT1B OUT1B 0 300K
COUT1B OUT1B 0 1P

E2p OUT2A 0 VALUE {IF((V(IN2A)-V(IN2B)>=6.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5) ),5.0,
+IF((V(IN2A)-V(IN2B)<=2.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5) ), 0.0,0.0))}
ROUT2A OUT2A 0 300K
COUT2A OUT2A 0 1P

E2B OUT2B 0 VALUE {IF((V(IN2B)-V(IN2A)>=6.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5)),5.0,
+IF((V(IN2A)-V(IN2B)<=2.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5)), 0.0,0.0))}
ROUT2B OUT2B 0 300K
COUT2B OUT2B 0 1P

E3p OUT3A 0 VALUE {IF((V(IN3A)-V(IN3B)>=6.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5) ),5.0,
+IF((V(IN3A)-V(IN3B)<=2.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5) ), 0.0,0.0))}
ROUT3A OUT3A 0 300K
COUT3A OUT3A 0 1P

E3B OUT3B 0 VALUE {IF((V(IN3B)-V(IN3A)>=6.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5)),5.0,
+IF((V(IN3A)-V(IN3B)<=2.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5)), 0.0,0.0))}
ROUT3B OUT3B 0 300K
COUT3B OUT3B 0 1P

E4p OUT4A 0 VALUE {IF((V(IN4A)-V(IN4B)>=6.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5) ),5.0,
+IF((V(IN4A)-V(IN4B)<=2.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5) ), 0.0,0.0))}
ROUT4A OUT4A 0 300K
COUT4A OUT4A 0 1P

E4B OUT4B 0 VALUE {IF((V(IN4B)-V(IN4A)>=6.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5)),5.0,
+IF((V(IN4A)-V(IN4B)<=2.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5)), 0.0,0.0))}
ROUT4B OUT4B 0 300K
COUT4B OUT4B 0 1P

E5A OUT5A 0 VALUE {IF((V(IN5A)-V(IN5B)>=6.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5) ),5.0,
+IF((V(IN5A)-V(IN5B)<=2.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5) ), 0.0,0.0))}
ROUT5A OUT5A 0 300K
COUT5A OUT5A 0 1P

E5B OUT5B 0 VALUE {IF((V(IN5B)-V(IN5A)>=6.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5)),5.0,
+IF((V(IN5A)-V(IN5B)<=2.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5)), 0.0,0.0))}
ROUT5B OUT5B 0 300K
COUT5B OUT5B 0 1P

E6p OUT6A 0 VALUE {IF((V(IN6A)-V(IN6B)>=6.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5) ),5.0,
+IF((V(IN6A)-V(IN6B)<=2.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5) ), 0.0,0.0))}
ROUT6A OUT6A 0 300K
COUT6A OUT6A 0 1P

E6B OUT6B 0 VALUE {IF((V(IN6B)-V(IN6A)>=6.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5)),5.0,
+IF((V(IN6A)-V(IN6B)<=2.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5)), 0.0,0.0))}
ROUT6B OUT6B 0 300K
COUT6B OUT6B 0 1P

E7p OUT7A 0 VALUE {IF((V(IN7A)-V(IN7B)>=6.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5) ),5.0,
+IF((V(IN7A)-V(IN7B)<=2.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5) ), 0.0,0.0))}
ROUT7A OUT7A 0 300K
COUT7A OUT7A 0 1P

E7B OUT7B 0 VALUE {IF((V(IN7B)-V(IN7A)>=6.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5)),5.0,
+IF((V(IN7A)-V(IN7B)<=2.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5)), 0.0,0.0))}
ROUT7B OUT7B 0 300K
COUT7B OUT7B 0 1P

E8p OUT8A 0 VALUE {IF((V(IN8A)-V(IN8B)>=6.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5) ),5.0,
+IF((V(IN8A)-V(IN8B)<=2.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5) ), 0.0,0.0))}
ROUT8A OUT8A 0 300K
COUT8A OUT8A 0 1P

E8B OUT8B 0 VALUE {IF((V(IN8B)-V(IN8A)>=6.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5)),5.0,
+IF((V(IN8A)-V(IN8B)<=2.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5)), 0.0,0.0))}
ROUT8B OUT8B 0 300K
COUT8B OUT8B 0 1P

.ENDS DEI1047
*$

* PSpice Model Editor - Version 16.0.0

*$
.SUBCKT DEI1046 IN1A IN1B 
+IN2A IN2B 
+IN3A IN3B 
+IN4A IN4B 
+IN5A IN5B 
+IN6A IN6B 
+IN7A IN7B 
+IN8A IN8B 
+TESTA TESTB 
+OUT1A OUT1B  
+OUT2A OUT2B 
+OUT3A OUT3B 
+OUT4A OUT4B 
+OUT5A OUT5B 
+OUT6A OUT6B 
+OUT7A OUT7B 
+OUT8A OUT8B
+VDD
+VSS
+VSS1
RTESTA TESTA 0 1K
RTESTB TESTA 0 1K
E1A OUT1A 0 VALUE {IF((V(IN1A)-V(IN1B)>=6.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5) ),5.0,
+IF((V(IN1A)-V(IN1B)<=2.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5) ), 0.0,0.0))}
ROUT1A OUT1A 0 300K
COUT1A OUT1A 0 1P
E1B OUT1B 0 VALUE {IF((V(IN1B)-V(IN1A)>=6.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5)),5.0,
+IF((V(IN1A)-V(IN1B)<=2.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5)), 0.0,0.0))}
ROUT1B OUT1B 0 300K
COUT1B OUT1B 0 1P
E2p OUT2A 0 VALUE {IF((V(IN2A)-V(IN2B)>=6.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5) ),5.0,
+IF((V(IN2A)-V(IN2B)<=2.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5) ), 0.0,0.0))}
ROUT2A OUT2A 0 300K
COUT2A OUT2A 0 1P
E2B OUT2B 0 VALUE {IF((V(IN2B)-V(IN2A)>=6.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5)),5.0,
+IF((V(IN2A)-V(IN2B)<=2.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5)), 0.0,0.0))}
ROUT2B OUT2B 0 300K
COUT2B OUT2B 0 1P
E3p OUT3A 0 VALUE {IF((V(IN3A)-V(IN3B)>=6.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5) ),5.0,
+IF((V(IN3A)-V(IN3B)<=2.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5) ), 0.0,0.0))}
ROUT3A OUT3A 0 300K
COUT3A OUT3A 0 1P
E3B OUT3B 0 VALUE {IF((V(IN3B)-V(IN3A)>=6.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5)),5.0,
+IF((V(IN3A)-V(IN3B)<=2.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5)), 0.0,0.0))}
ROUT3B OUT3B 0 300K
COUT3B OUT3B 0 1P
E4p OUT4A 0 VALUE {IF((V(IN4A)-V(IN4B)>=6.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5) ),5.0,
+IF((V(IN4A)-V(IN4B)<=2.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5) ), 0.0,0.0))}
ROUT4A OUT4A 0 300K
COUT4A OUT4A 0 1P
E4B OUT4B 0 VALUE {IF((V(IN4B)-V(IN4A)>=6.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5)),5.0,
+IF((V(IN4A)-V(IN4B)<=2.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5)), 0.0,0.0))}
ROUT4B OUT4B 0 300K
COUT4B OUT4B 0 1P
E5A OUT5A 0 VALUE {IF((V(IN5A)-V(IN5B)>=6.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5) ),5.0,
+IF((V(IN5A)-V(IN5B)<=2.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5) ), 0.0,0.0))}
ROUT5A OUT5A 0 300K
COUT5A OUT5A 0 1P
E5B OUT5B 0 VALUE {IF((V(IN5B)-V(IN5A)>=6.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5)),5.0,
+IF((V(IN5A)-V(IN5B)<=2.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5)), 0.0,0.0))}
ROUT5B OUT5B 0 300K
COUT5B OUT5B 0 1P
E6p OUT6A 0 VALUE {IF((V(IN6A)-V(IN6B)>=6.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5) ),5.0,
+IF((V(IN6A)-V(IN6B)<=2.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5) ), 0.0,0.0))}
ROUT6A OUT6A 0 300K
COUT6A OUT6A 0 1P
E6B OUT6B 0 VALUE {IF((V(IN6B)-V(IN6A)>=6.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5)),5.0,
+IF((V(IN6A)-V(IN6B)<=2.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5)), 0.0,0.0))}
ROUT6B OUT6B 0 300K
COUT6B OUT6B 0 1P
E7p OUT7A 0 VALUE {IF((V(IN7A)-V(IN7B)>=6.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5) ),5.0,
+IF((V(IN7A)-V(IN7B)<=2.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5) ), 0.0,0.0))}
ROUT7A OUT7A 0 300K
COUT7A OUT7A 0 1P
E7B OUT7B 0 VALUE {IF((V(IN7B)-V(IN7A)>=6.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5)),5.0,
+IF((V(IN7A)-V(IN7B)<=2.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5)), 0.0,0.0))}
ROUT7B OUT7B 0 300K
COUT7B OUT7B 0 1P
E8p OUT8A 0 VALUE {IF((V(IN8A)-V(IN8B)>=6.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5) ),5.0,
+IF((V(IN8A)-V(IN8B)<=2.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5) ), 0.0,0.0))}
ROUT8A OUT8A 0 300K
COUT8A OUT8A 0 1P
E8B OUT8B 0 VALUE {IF((V(IN8B)-V(IN8A)>=6.5 | (V(TESTA) <=0.5 & V(TESTB) >=2.5)),5.0,
+IF((V(IN8A)-V(IN8B)<=2.5 | (V(TESTA) >=2.5 & V(TESTB) <=0.5)), 0.0,0.0))}
ROUT8B OUT8B 0 300K
COUT8B OUT8B 0 1P
.ENDS DEI1046
*$
*$
.subckt sn75als192 A G Gbar Y Z 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0
U_inv1 inv DPWR DGND
+	gbar   gbarbar 
+	D_04XX IO_STD_sn75als192 MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL} 
U_or2 OR(2)
+  DPWR  DGND
+  G gbarbar  sel
+	D_04XX IO_STD_sn75als192 MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL} 
U_bufA BUF3
+  DPWR  DGND
+  A SEL  Y
+  D_XX IO_STD_sn75als192 MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL} 
U_invZ INV3
+  DPWR  DGND
+  A SEL  Z
+  D_XX IO_STD_sn75als192 MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL} 
.model D_xx utgate (
+	tplhty=8ns	tplhmx=13ns
+	tphlty=12ns	tphlmx=18ns
+	tpzhty=11ns	tpzhmx=17ns
+	tpzlty=16ns	tpzlmx=25ns
+	tphzty=5ns	tphzmx=8ns
+	tplzty=7ns	tplzmx=12ns
+	)
.model D_04XX ugate (
+	tplhty=12ns	tplhmx=22ns
+	tphlty=8ns	tphlmx=15ns
+	)
.model IO_STD_sn75als192 uio (
+	drvh=96.4	drvl=104
+	AtoD1="AtoD_STD"	AtoD2="AtoD_STD_NX"
+	AtoD3="AtoD_STD"	AtoD4="AtoD_STD_NX"
+	DtoA1="DtoA_STD"	DtoA2="DtoA_STD"
+	DtoA3="DtoA_STD"	DtoA4="DtoA_STD"
+       tswhl1=1.511ns		tswlh1=3.517ns
+       tswhl2=1.487ns		tswlh2=3.564ns
+       tswhl3=1.511ns		tswlh3=3.517ns
+       tswhl4=1.487ns		tswlh4=3.564ns
+	DIGPOWER="DIGIFPWR" )
.ends sn75als192
*$

*$
.subckt sn75als193 A B G Gbar Y 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0
U_inv1 inv DPWR DGND
+	gbar   gbarbar 
+	D_04XX IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL} 
U_or2 OR(2)
+  DPWR  DGND G gbarbar  sel
+	D_04XX IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL} 
U1 buf DPWR DGND a_bdiff  node1 
+	D_04XX IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL} 
Ediff node1 0 value { IF (V(a,b) >=0.2,5.0,IF(V(a,b) < 0.2 & V(a,b) > -0.2,1.4,IF(V(a,b) <= -0.2,0.0,0.001)))} 
Ubuf3 buf3 $G_DPWR $G_DGND
+	node1   sel   Y 
+	D_426 IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL} 
.model D_04XX ugate (
+	tplhty=12ns	tplhmx=22ns
+	tphlty=8ns	tphlmx=15ns)
.ends sn75als193
*$
